US05229509
(6R,7R)-7-[(R)-2-AMINO-2-PHENYLACETAMIDO]-3-CHLORO-8-OXO-5-THIA-1-AZABICYCLO[4,2,0]OCT-2-ENE-2-CARBOXYLIC ACID
2.6 ml (18.6 mmol) of triethylamine are added to a suspension of 3.5 g (10 mmol) of ampicillin in 15 ml of acetone and stirring takes place for 20 hours, at room temperature. After evaporating the solvent, 30 ml of water, 0.83 g (12 mmol) of sodium nitrite and 20 ml of ethyl acetate are added. The mixture is cooled in an ice bath and is acidified with hydrochloric acid to a pH of 2. The aqueous phase is decanted and the organic phase is washed successively with water and saturated sodium chloride solution, dried over anhydrous magnesium sulphate and evaporated to dryness. A white solid is obtained which corresponds to the title compound. It crystallizes from methanol/water. M.p. 167°-169° C.

reactant | triethylamine | 18.6 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | ampicillin | 10 mmol, 3.5 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | sodium nitrite | 12 mmol, 0.83 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
product | (6R,7R)-7-[(R)-2-AMINO-2-PHENYLACETAMIDO]-3-CHLORO-8-OXO-5-THIA-1-AZABICYCLO[4,2,0]OCT-2-ENE-2-CARBOXYLIC ACID | N[C@@H](C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)Cl)C1=CC=CC=C1 | C15H14ClN3O4S
